US07199124B2
4-[4-(3-chlorophenyl)-2-ethyl-1,3-thiazol-5-yl]-N-[(1S)-1-phenylethyl]-2-pyridylamine hydrochloride
A mixture of 4-(3-chlorophenyl)-2-ethyl-5-(2-fluoro-4-pyridyl)-1,3-thiazole (0.35 g, 1.1 mmol) and (S)-1-phenylethylamine (1.4 mL, 11 mmol) was stirred at 150° C. for 16 hrs. The reaction mixture was cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The obtained oil was treated with 10% hydrogen chloride-methanol to give the title compound (0.27 g, yield 56%).

reactant | 4-(3-chlorophenyl)-2-ethyl-5-(2-fluoro-4-pyridyl)-1,3-thiazole | 1.1 mmol, 0.35 g | ClC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)F)CC | C16H12ClFN2S
reactant | (S)-1-phenylethylamine | 11 mmol, 1.4 mL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-[4-(3-chlorophenyl)-2-ethyl-1,3-thiazol-5-yl]-N-[(1S)-1-phenylethyl]-2-pyridylamine hydrochloride | 0.27 g, yield 56% | Cl.ClC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)CC | InChI=1S/C24H22ClN3S.ClH/c1-3-22-28-23(18-10-7-11-20(25)14-18)24(29-22)19-12-13-26-21(15-19)27-16(2)17-8-5-4-6-9-17;/h4-16H,3H2,1-2H3,(H,26,27);1H/t16-;/m0./s1
